US06015818
To a mixture of 2-acetamido-5-bromopyridine (240 mg), tri-n-butylamine (456 mg), palladium(II) acetate (0.13 mg) and triphenylphosphine (1.5 mg) in xylene (0.48 ml) was dropwise added acrylic acid (97 mg) at 150° C., and the mixture was stirred for 7 hours at the same temperature. After cooling the mixture, water was added thereto, and the mixture was adjusted to pH4 with hydrochloric acid. The precipitate was collected by filtration, washed with xylene and water, and dried to give (E)-3-(6-acetamidopyridin-3-yl)acrylic acid (173 mg) as yellow crystals.

reactant | 2-acetamido-5-bromopyridine | 240 mg | C(C)(=O)NC1=NC=C(C=C1)Br | C7H7BrN2O
reactant | tri-n-butylamine | 456 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | acrylic acid | 97 mg | C(C=C)(=O)O | C3H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | xylene | 0.48 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium(II) acetate | 0.13 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 1.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
product | (E)-3-(6-acetamidopyridin-3-yl)acrylic acid | 173 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)O | C10H10N2O3
